US07470680B2
tert-butyl 4-(2-oxo-3-phenyl-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate.
tert-Butyl 4-(1-(2,2-dimethoxyethyl)-3-phenylureido)piperidine-1-carboxylate (1.29 g, 3.17 mmol) was dissolved in a mixture of water (5 ml) and methanesulfonic acid (5 ml, 77 mmol). Reaction was heated to 100° C. and held with stirring for 20 minutes. Mixture was cooled to room temperature. Sodium carbonate (3.75 g, 35.4 mmol) was slowly added to the mixture. Mixture was made basic with aqueous sodium bicarbonate. 1,4-Dioxane (20 ml) was added to the mixture followed by di-tert-butyl dicarbonate (1.0 g, 4.58 mmol). Mixture stirred at room temperature for 18 hours. Reaction was quenched with aqueous ammonium chloride. Material was extracted twice with ethyl acetate and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Silica gel chromatography eluting ethyl acetate-hexanes afforded the title compound as white solid in 59% yield. MS (M−C5H8O2+H)+=244.2.

reactant | tert-Butyl 4-(1-(2,2-dimethoxyethyl)-3-phenylureido)piperidine-1-carboxylate | 3.17 mmol, 1.29 g | COC(CN(C(=O)NC1=CC=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC | C21H33N3O5
reactant | methanesulfonic acid | 77 mmol, 5 ml | CS(=O)(=O)O | CH4O3S
reactant | Sodium carbonate | 35.4 mmol, 3.75 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 4.58 mmol, 1.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 5 ml | O | H2O
solvent | 1,4-Dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(2-oxo-3-phenyl-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate | 59% yield | O=C1N(C=CN1C1=CC=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H25N3O3
